US06448277B2
1. Intermediate 1a: 2-Nitro-N-(4-trifluoromethylphenyl)benzamide
A solution containing 2-nitrobenzoyl chloride (Fluka, Buchs, Switzerland) (1.97 mL, 15 mmol) and 4-dimethylaminopyridine (Fluka, Buchs, Switzerland) (10 mg) in dichloromethane (10 mL) is added to a stirred mixture of 4-aminobenzotrifluoride (Ruka, Buchs, Switzerland) (2.66 g, 16.5 mmol) and triethylamine (1.90 g, 18.8 mmol) in dichloromethane (100 mL) under an argon atmosphere and the mixture is stirred for 16 hours at 25° C. The stirred mixture is then treated with a saturated aqueous solution of sodium hydrogen carbonate (50 mL) and then extracted with dichoromethane (2×50 mL). The combined extracts are dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by column chromatography on silica gel, eluent 10-50% ethyl acetate in hexane, to give the title compound as a colourless crystalline solid.

reactant | 2-nitrobenzoyl chloride | 15 mmol, 1.97 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | 4-aminobenzotrifluoride | 16.5 mmol, 2.66 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | triethylamine | 18.8 mmol, 1.90 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Nitro-N-(4-trifluoromethylphenyl)benzamide | [N+](=O)([O-])C1=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=CC=C1 | C14H9F3N2O3
